US09079866B2
racemic tert-Butyl (1-{[4′-(5-aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-3-yl)carbamate
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and racemic tert-butyl (1-((2-bromophenyl)sulfonyl)piperidin-3-yl)carbamate. MS (ESI): mass calcd. for C26H30FN5O4S, 527.20; m/z found, 528.3 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.34 (d, J=9.1, 2H), 8.10-8.07 (m, 1H), 8.00 (m, 1H), 7.73-7.68 (m, 1H), 7.64-7.59 (m, 1H), 7.44-7.40 (m, 1H), 7.35-7.29 (m, 2H), 3.30-3.20 (m, 2H), 3.15-3.06 (m, 1H), 2.51-2.40 (m, 1H), 2.30-2.21 (m, 1H), 1.79-1.70 (m, 1H), 1.65-1.56 (m, 1H), 1.39-1.28 (m, 10H), 1.26-1.14 (m, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | racemic tert-butyl (1-((2-bromophenyl)sulfonyl)piperidin-3-yl)carbamate | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)NC(OC(C)(C)C)=O | C16H23BrN2O4S
product | racemic tert-Butyl (1-{[4′-(5-aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-3-yl)carbamate | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)NC(OC(C)(C)C)=O)F | C26H30FN5O4S
